US04101549
5-Allyl-5-(1-p-nitrophenyloxycarbonyl-isopropyl)barbituric acid
A solution of 2.19 g. of ethyl chloroformate in 90 ml. of chloroform was added to a solution of 5.08 g. of "allonalcarboxylic acid" [5-allyl-5-(1-carboxyisopropyl)barbituric acid] and 2.02 g. of triethylamine in 100 ml. of dichloromethane, cooled to 0°-5°, and the mixture was stirred at room temperature for 5 hours. p-Nitrophenol (3.06 g.) was added and the mixture was stirred at room temperature for 14 hours. The reaction mixture was washed with saturated sodium carbonate solution (3 × 25 ml.), and water until the workings were neutral, dried over anhydrous sodium sulfate and filtered. Evaporation of the filtrate under reduced pressure gave 4.7 g. of an oil. Crystallization from a mixture of ether-heptane (1:1) gave 2.2 g. of the ester, m.p. 140°-141°.

reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 5-allyl-5-(1-carboxyisopropyl)barbituric acid | C(C=C)C1(C(NC(NC1=O)=O)=O)C(C)(C)C(=O)O | C11H14N2O5
reactant | p-Nitrophenol | 3.06 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-Allyl-5-(1-p-nitrophenyloxycarbonyl-isopropyl)barbituric acid | C(C=C)C1(C(NC(NC1=O)=O)=O)C(C)(C)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H17N3O7
